US04011230
Dimethylammonium dimethyldithiocarbamate (33.2 grams, 0.20 mole), formaldehyde (16.2 grams of 37% aqueous solution, 0.20 mole), 2,4-pentanedione (20.0 grams, 0.20 mole), and carbon disulfide (15.2 grams, 0.20 mole) were dissolved in methanol (100 ml.). The temperature of the resulting reaction was kept below 27° C. with ice cooling. After 3 hours at 22° C.-29° C., the reaction mixture was cooled in ice and the precipitated product was filtered off, washed with cold methanol and water, and dried in air. The crude product, melting at 69.5° C.-71.5° C. (prior sintering) weighed 37.3 grams (80%). Repeated precipitation of the material from carbon tetrachloride solution by the addition of hexane gave pure 2-(1-hydroxyethylidene)-3-oxobutyl dimethyldithiocarbamate melting at 70° C. -72° C. The structure was determined from infrared and nuclear magnetic resonance spectra and elemental analysis.

reactant | Dimethylammonium dimethyldithiocarbamate | 0.20 mole, 33.2 grams | CN(C([S-])=S)C.C[NH2+]C
reactant | formaldehyde | 0.20 mole, 16.2 grams | C=O | CH2O
reactant | 2,4-pentanedione | 0.20 mole, 20.0 grams | CC(CC(C)=O)=O | C5H8O2
reactant | carbon disulfide | 0.20 mole, 15.2 grams | C(=S)=S | CS2
solvent | methanol | 100 ml | CO | CH4O
product | 2-(1-hydroxyethylidene)-3-oxobutyl dimethyldithiocarbamate | CN(C(SCC(C(C)=O)=C(C)O)=S)C | C9H15NO2S2
